US07112585B2
[5-(4-Benzyloxybenzenesulfonyl)-2-methylpyrimidin-4-yl]-(2,4,6-trimethylphenyl)-amine
A mixture of 4-[2-methyl-4-(2,4,6-trimethylphenylamino)-pyrimidine-5-sulfonyl]-phenol (56 mg, 0.15 mmol), prepared as described in Example 2, potassium carbonate (40 mg, 29 mmol), benzyl bromide (0.034 mL, 0.29 mmol) and acetone (3 mL) was stirred at room temperature under N2 for 48 h. The reaction mixture was diluted with water, and extracted (3×) with CH2Cl2. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel (50:50 hexanes/EtOAc) to provide the target compound (62 mg, 91%) as a white solid: mp 166–168° C.; 1H NMR (300 MHz, CDCl3) δ 8.74 (s, 1H), 8.20 (br s, 1H), 7.87 (d, J=8.8 Hz, 2H), 7.36–7.40 (m, 5H), 7.05 (d, J=8.8 Hz, 2H), 6.91 (s, 2H), 5.12 (s, 2H), 2.39 (s, 3H), 2.31 (s, 3H), 2.00 (s, 6H); ESI MS m/z 474 [(M+H)+, calcd for C27H28N3O3S, 474.2].

reactant | 4-[2-methyl-4-(2,4,6-trimethylphenylamino)-pyrimidine-5-sulfonyl]-phenol | 0.15 mmol, 56 mg | CC1=NC=C(C(=N1)NC1=C(C=C(C=C1C)C)C)S(=O)(=O)C1=CC=C(C=C1)O | C20H21N3O3S
reactant | potassium carbonate | 29 mmol, 40 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.29 mmol, 0.034 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | acetone | 3 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | [5-(4-Benzyloxybenzenesulfonyl)-2-methylpyrimidin-4-yl]-(2,4,6-trimethylphenyl)-amine | 62 mg, 91% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)C=1C(=NC(=NC1)C)NC1=C(C=C(C=C1C)C)C | C27H27N3O3S
